US07470680B2
3-(piperidin-4-yl)-4,5-dihydro-1H-pyrido[2,3-d][1,3]diazepin-2(3H)-one dihydrochloride.
tert-Butyl 4-(2-oxo-4,5-dihydro-1H-pyrido[2,3-d][1,3]diazepin-3(2H)-yl)piperidine-1-carboxylate (0.51 g, 1.472 mmol) was dissolved in dichloromethane (8 ml). Trifluoroacetic acid (2 ml, 26.0 mmol) was added to the solution. The mixture was stirred at room temperature for 4 hours. All volatiles were removed by roto-vap. Residue was dissolved in dichloromethane (10 mL). 2M Hydrogen chloride in diethyl ether (2.58 ml, 5.15 mmol) was added to the mixture. The mixture was stirred at room temperature for 15 minutes and then all volatiles were removed. The resulting off-white solid was washed with anhydrous diethyl ether four times to afford the title compound as white solid in 99% yield. 1H NMR (500 MHz, D2O) δ ppm 8.01-8.29 (m, 2 H) 7.38 (t, J=6.71 Hz, 1 H) 4.63-4.88 (m, 2 H) 4.29-4.53 (m, 1 H) 3.61-3.71 (m, 2 H) 3.45-3.62 (m, 2 H) 3.01-3.27 (m, 4 H) 1.93-2.21 (m, 4 H).

reactant | tert-Butyl 4-(2-oxo-4,5-dihydro-1H-pyrido[2,3-d][1,3]diazepin-3(2H)-yl)piperidine-1-carboxylate | 1.472 mmol, 0.51 g | O=C1N(CCC2=C(N1)N=CC=C2)C2CCN(CC2)C(=O)OC(C)(C)C | C18H26N4O3
reactant | Trifluoroacetic acid | 26.0 mmol, 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | Hydrogen chloride | 2M | Cl | ClH
reactant | diethyl ether | 5.15 mmol, 2.58 ml | C(C)OCC | C4H10O
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | 3-(piperidin-4-yl)-4,5-dihydro-1H-pyrido[2,3-d][1,3]diazepin-2(3H)-one dihydrochloride | 99% yield | Cl.Cl.N1CCC(CC1)N1C(NC2=C(CC1)C=CC=N2)=O | InChI=1S/C13H18N4O.2ClH/c18-13-16-12-10(2-1-6-15-12)5-9-17(13)11-3-7-14-8-4-11;;/h1-2,6,11,14H,3-5,7-9H2,(H,15,16,18);2*1H
